US07365235B2
In a stirred reactor consisting of a flask, heating mushroom, water separator, reflux condenser and nitrogen inlet, 1 g (0.015 mol) of potassium hydroxide was added to 500 g (3.2 mol) of decanal (99% by weight) at 20° C., followed by heating to 210° C. The water formed during the reaction was continuously distilled off. After 3 hours, the reaction was terminated, the reaction mixture was cooled to 20° C. and the potassium hydroxide precipitated was filtered off. The resulting clear liquid contained 90% by weight of α,β-unsaturated aldehyde, 4% by weight trimers, 2% by weight esters and 4% by weight unreacted starting aldehyde. The reaction mixture was transferred to an autoclave and hydrogenated for 3 hours at 230° C./250 bar in the presence of a nickel catalyst until there was no further uptake of hydrogen. 90% by weight of the hydrogenation product consisted of 2-octyl dodecanol, 6% by weight of decanol and 4% by weight of trimers. After distillation, the 2-octyl dodecanol was obtained in a purity of 95.7% by weight.

reactant | potassium hydroxide | 0.015 mol, 1 g | [OH-].[K+]
reactant | decanal | 3.2 mol, 500 g | C(CCCCCCCCC)=O | C10H20O
solvent | water | O | H2O
product | 2-octyl dodecanol | C(CCCCCCC)C(CO)CCCCCCCCCC | C20H42O
